US04435385
(c) BOC-Thr-Cys(MBzl)-Thr-ol
5.9 ml chloroformic acid isobutyl-ester are added drop-wise to a solution of 9.7 g Boc-Thr-OH and 9.4 ml N-methyl-morpholine in 50 ml THF pre-cooled to -25° C. The solution is stirred for 5 min. at -15° C. and a solution of 20 g H-Cys(MBzl)-Thr-ol trifluoroacetate and 9.8 ml N-methylmorpholine in 50 ml THF, pre-cooled to -10° C. are added. The reaction mixture is stirred for 2 hrs. at 0° C., and for 2 hrs. at room temperature. 20 ml 10% KHCO3 are added and the mixture concentrated under vacuum. The product is diluted with AcOEt and washed with 2 N citric acid, 10% KHCO3 solution and then 30% NaCl solution. The AcOEt phase is dried over Na2SO4 and evaporated under vacuum, and the residue re-crystallised from MeOH/AcOEt/hexane. The title compound is obtained after further filtration, washing with ether and drying:

reactant | chloroformic acid isobutyl-ester | 5.9 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | Boc-Thr-OH | 9.7 g | N([C@@H]([C@H](O)C)C(=O)O)C(=O)OC(C)(C)C | C9H17NO5
reactant | N-methyl-morpholine | 9.4 ml | CN1CCOCC1 | C5H11NO
reactant | H-Cys(MBzl)-Thr-ol trifluoroacetate | 20 g | N[C@@H](CSCC1=CC=C(C)C=C1)C(=O)N[C@@H]([C@H](O)C)CO.FC(F)(F)C(=O)O
reactant | N-methylmorpholine | 9.8 ml | CN1CCOCC1 | C5H11NO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | BOC-Thr-Cys(MBzl)-Thr-ol | N([C@@H]([C@H](O)C)C(=O)N[C@@H](CSCC1=CC=C(C)C=C1)C(=O)N[C@@H]([C@H](O)C)CO)C(=O)OC(C)(C)C | C24H39N3O7S
